US06936602B1
A mixture of methyl 7-bromo-1-formyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate (0.25 g), 4-[N-ethyl-N-(2-propoxyethyl)amino]phenyl borate (0.3 g), 1M potassium carbonate solution (2.5 ml), ethanol (2.5 ml) and toluene (25 ml) was stirred under argon atmosphere at room temperature for 30 minutes. To the mixture was added tetrakis(triphenylphosphine)palladium (0.04 g), and the mixture was refluxed overnight under argon atmosphere and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried with anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified with silica gel column chromatography (ethyl acetate/hexane) to give methyl 7-[4-[N-ethyl-N-(2-propoxyethyl)amino]phenyl]-1-formyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate (0.31 g) as green oil.

reactant | methyl 7-bromo-1-formyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 0.25 g | BrC=1C=CC2=C(C=C(CCN2C=O)C(=O)OC)C1 | C13H12BrNO3
reactant | 4-[N-ethyl-N-(2-propoxyethyl)amino]phenyl borate | 0.3 g | B(OC1=CC=C(C=C1)N(CCOCCC)CC)([O-])[O-]
reactant | potassium carbonate | 1M, 2.5 ml | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 2.5 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.04 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 7-[4-[N-ethyl-N-(2-propoxyethyl)amino]phenyl]-1-formyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 0.31 g | C(C)N(CCOCCC)C1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2C=O)C(=O)OC)C1 | C26H32N2O4
